US06884821B1
Using 2-fluoro-4-(trifluoromethyl)benzyl alcohol and 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate, 3-[3-([2-fluoro-4-(trifluoromethyl)benzyl]oxymethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid was obtained in the same method as in Example 247).

reactant | 2-fluoro-4-(trifluoromethyl)benzyl alcohol | FC1=C(CO)C=CC(=C1)C(F)(F)F | C8H6F4O
reactant | 3-[3-(bromomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | BrCC=1C=C(C=CC1OC)CC(C(=O)[O-])OC(C)C
product | 3-[3-([2-fluoro-4-(trifluoromethyl)benzyl]oxymethyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid | FC1=C(COCC=2C=C(C=CC2OC)CC(C(=O)O)OC(C)C)C=CC(=C1)C(F)(F)F | C22H24F4O5
